US07947692B2
To a mixture of 4-Methoxy-3-nitropyridine (5.0 g, 32.44 mmole) in ethanol (100 mL) was added 10% palladium on carbon catalyst (200 mg). The resulting mixture was allowed to shake under a hydrogen atmosphere (50 psi) for 6 h. at room temperature. TLC (50% ethyl acetate/hexane) indicated complete consumption of starting material. Filtration through celite to remove the catalyst and concentration gave 3- Amino-4 methoxypyridine (4.0 g, 32.44 mmol, 100% yield) as dark red oil.

reactant | 4-Methoxy-3-nitropyridine | 32.44 mmole, 5.0 g | COC1=C(C=NC=C1)[N+](=O)[O-] | C6H6N2O3
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 3- Amino-4 methoxypyridine | 32.44 mmol, 4.0 g, 100% yield | NC=1C=NC=CC1OC | C6H8N2O
